US09358222B2
Distilled THF (5 mL) was added to 3-(4-chlorophenyl)-3-hydroxy-2-propylisoindolin-1-one (104 mg, 0.33 mmol), thionyl chloride (86.83 mg, 0.73 mmol, 0.05 mL) and catalytic DMF (3 drops) as for general procedure B1. 3-Chloro-3-(4-chlorophenyl)-2-propylisoindolin-1-one was produced as an orange oil (105 mg, 0.33 mmol) which was used immediately without further purification. Distilled THF (6 mL) was added to 3-chloro-3-(4-chlorophenyl)-2-propylisoindolin-1-one (211.2, 0.66 mmol), cis-cyclopentene diol (330 mg, 3.3 mmol) and potassium carbonate (456 mg, 3.3 mmol) as for general procedure B. Removal of the solvent yielded the crude product as a colourless oil (160.2 mg). The sample was purified by flash column chromatography (EtOAc:Petrol, 40:60) to yield the title product as an colourless viscous oil. (129 mg, 0.43 mmol, 51% yield). 1H NMR: (300 Hz, DMSO) δ ppm 0.76 (t, 3H, H11), 1.36 (m, 1H, H13/H13′), 1.49, 1.76 (m, 1H, H13/H13′), 3.12 (m, 2H H10) 3.96 (m, 1H, H9/H9′), 4.26 (m, 1H, H9/H9′), 5.29, 5.87, (dd, 1H, H15/H16) 5.74, 5.79 (dd, 1H, H15/H16) 7.23 (d, 1H,), 7.38 (m, 4H, H1-H5), 7.61 (m, 2H, H6-H7), 7.76 (d, 1H, H8). IR: 1365, 1682, 2969, 3363 cm−1.

reactant | 3-(4-chlorophenyl)-3-hydroxy-2-propylisoindolin-1-one | 0.33 mmol, 104 mg | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CCC)O | C17H16ClNO2
reactant | thionyl chloride | 0.73 mmol, 0.05 mL, 86.83 mg | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 3-Chloro-3-(4-chlorophenyl)-2-propylisoindolin-1-one | ClC1(N(C(C2=CC=CC=C12)=O)CCC)C1=CC=C(C=C1)Cl | C17H15Cl2NO
